US08084457B2
To a solution of 4-(3′-amino-4′benzyloxyphenyl)amino-6-chloro-pyrimidine (630 mg) in dry dichloromethane was added pyridine (8 ml) followed by methane sulfonyl chloride (0.3 ml). The mixture was stirred at room temperature overnight then evaporated under reduced pressure. The residue was dissolved in water and dichloromethane and the organic phase separated, washed with water, dried (MgSO4) and evaporated under reduced pressure. The residue was then subjected to column chromatography (SiO2;ethyl acetate:petroleum ether (40/60) 1:1) to afford N-{5-[6-chloropyrimidin-4-ylamino]-2-benzyloxy-phenyl}-methanesulfonamide (200 mg). δH (d6 DMSO): 3.14 (3H, s, SO2Me), 5.40 (2H, s, CH2Ph), 6.94 (1H, s, HetH), 7.30-7.40 (1H, m, ArH), 7.50-7.85 (7H, m, ArH), 8.70 (1H, s, HetH), 9.30 (1H, s, NH), 10.00 (1H, s, NH)

reactant | 4-(3′-amino-4′benzyloxyphenyl)amino-6-chloro-pyrimidine | 630 mg | NC=1C=C(C=CC1OCC1=CC=CC=C1)NC1=NC=NC(=C1)Cl | C17H15ClN4O
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | methane sulfonyl chloride | 0.3 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{5-[6-chloropyrimidin-4-ylamino]-2-benzyloxy-phenyl}-methanesulfonamide | 200 mg | ClC1=CC(=NC=N1)NC=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1 | C18H17ClN4O3S
